US06153608
(R)-2-Methyl-1-[(4-methyl-5-isoquinolinyl)sulfonyl]piperazine hydrochloride
Using 0.34 g of (R)-1-(tert-butoxycarbonyl)-3-methylpiperazine and 0.40 g of 5-chlorosulfonyl-4-methylisoquinoline, the procedure of Example 1 was otherwise repeated to provide 0.15 g of the objective compound (white crystals).

reactant | (R)-1-(tert-butoxycarbonyl)-3-methylpiperazine | 0.34 g | C(C)(C)(C)OC(=O)N1C[C@H](NCC1)C | C10H20N2O2
reactant | 5-chlorosulfonyl-4-methylisoquinoline | 0.40 g | ClS(=O)(=O)C1=C2C(=CN=CC2=CC=C1)C | C10H8ClNO2S
product | (R)-2-Methyl-1-[(4-methyl-5-isoquinolinyl)sulfonyl]piperazine hydrochloride | 0.15 g | Cl.C[C@H]1N(CCNC1)S(=O)(=O)C1=C2C(=CN=CC2=CC=C1)C | InChI=1S/C15H19N3O2S.ClH/c1-11-8-17-10-13-4-3-5-14(15(11)13)21(19,20)18-7-6-16-9-12(18)2;/h3-5,8,10,12,16H,6-7,9H2,1-2H3;1H/t12-;/m1./s1
